data/oMe_Silver.jsonl
{"reaction_id": "NR-320_1-Cl_2-c1ccccc1_3-N(=O)=O_4-F_5-Cl_6-CC_7-C(C)C","level": "hard","name": "Willgerodt-Kindler Reaction","reactants_smiles": ["CC(=O)c1c(Cl)c(c1ccccc1)c(N(=O)=O)c(F)c1(Cl)","N(CC)(C(C)C)","S1SSSSSSS1"],"products_smiles": ["N(CC)(C(C)C)C(=S)Cc1c(Cl)c(c1ccccc1)c(N(=O)=O)c(F)c1(Cl)"],"conditions": "Heat","mechanism_step_nums": 8,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C=C(N(CC)(C(C)C))c1c(Cl)c(c1ccccc1)c(N(=O)=O)c(F)c1(Cl)","step_weight": 0,"rationale": "The amine nitrogen attacks the electrophilic carbonyl carbon, facilitated by resonance withdrawal from the aromatic ring, forming an imine-like intermediate after dehydration."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[N+](CC)(C(C)C)=C(c1c(Cl)c(c1ccccc1)c(N(=O)=O)c(F)c1(Cl))CSSSSSSS[S-]","step_weight": 0,"rationale": "The iminium carbon is electrophilic; polysulfide sulfur attacks, displacing a leaving group due to sulfur’s high nucleophilicity and polarizability."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N(CC)(C(C)C)C(c1c(Cl)c(c1ccccc1)c(N(=O)=O)c(F)c1(Cl))=CSSSSSSSS","step_weight": 0,"rationale": "Proton transfer stabilizes the intermediate by neutralizing charge, driven by the basicity of nitrogen and the polar environment."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N(CC)(C(C)C)C(c1c(Cl)c(c1ccccc1)c(N(=O)=O)c(F)c1(Cl))C=[S+]SSSSSSSS","step_weight": 0,"rationale": "Another proton shift occurs to activate the sulfur atom for subsequent nucleophilic addition, aligning charges for stability."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[N+](CC)(C(C)C)2C(c1c(Cl)c(c1ccccc1)c(N(=O)=O)c(F)c1(Cl))C2SSSSSSSS","step_weight": 0,"rationale": "Nucleophilic sulfur attacks the activated iminium carbon, favored by the soft–soft interaction between sulfur and the polarized carbon."},{"step": 6,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C(c1c(Cl)c(c1ccccc1)c(N(=O)=O)c(F)c1(Cl))=C(N(CC)(C(C)C))SSSSSSSS","step_weight": 0,"rationale": "Elimination of a proton restores conjugation and relieves ring strain, driven by thermodynamic stability of the conjugated system."},{"step": 7,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1c(Cl)c(c1ccccc1)c(N(=O)=O)c(F)c1(Cl))C(N(CC)(C(C)C))=[S+]SSSSSSS","step_weight": 0,"rationale": "Proton transfer reorganizes the intermediate to place positive charge on sulfur, enhancing its leaving group ability for the next substitution."},{"step": 8,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "N(CC)(C(C)C)C(=S)Cc1c(Cl)c(c1ccccc1)c(N(=O)=O)c(F)c1(Cl)","step_weight": 0,"rationale": "Final nucleophilic substitution by amine on the thiocarbonyl carbon occurs, favored by the electrophilicity of C=S and the good leaving ability of polysulfide."}],"description": "Under heating, the Willgerodt–Kindler reaction converts an aryl methyl ketone into a thiocarbonyl amide via sequential nucleophilic substitutions, proton transfers, and rearrangements. The amine and polysulfide react to form a thioamide, driven by resonance stabilization and favorable leaving group departure under thermal conditions."}
{"reaction_id": "NR-228_1-CC_2-c1ccc(C(F)(F)F)cc1_3-Br_4-c1ccccc1_5-C1CCCCC1","level": "easy","name": "Prilezhaev Reaction","reactants_smiles": ["C(CC)=C(c1ccc(C(F)(F)F)cc1)(Br)","c1ccccc1C(=O)OC1CCCCC1"],"products_smiles": ["C(CC)1OC1(c1ccc(C(F)(F)F)cc1)Br"],"conditions": "Peroxy acid","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(CC)1OC1(c1ccc(C(F)(F)F)cc1)Br","step_weight": 0,"rationale": "The alkene π electrons attack the electrophilic oxygen of the peroxy acid due to its polarization by the adjacent carbonyl, enabling a concerted transition state that minimizes charge separation and forms the epoxide efficiently."}],"description": "The alkene undergoes electrophilic addition with the peroxy acid in a concerted Prilezhaev epoxidation, where the π bond attacks the electrophilic terminal oxygen of the peracid, forming a three-membered epoxide ring in a single step under mild conditions."}
